US07390923B2
3-(4-Cyano-3-fluorophenoxy)-N-(3-formyl-4-nitrophenyl)-2-hydroxy-2-methylpropionamide
3-(4-Cyano-3-fluorophenoxy)-2-hydroxy-N-(3-hydroxymethyl-4-nitrophenyl)-2-methylpropionamide (0.2 g, 0.51 mmol) was dissolved in dichloromethane (10 ml) and manganese(IV) oxide (0.4 g, 4.6 mmol) was added. The mixture was stirred at room temperature for 48 hours. The solid oxidant was removed by filtration and the solvent was evaporated. The crude product was purified by flash chromatography (dichloromethane-3% methanol). 1H NMR (400 MHz, DMSO-d6): 1.45 (3H, s), 4.13 (1H, d, J=10.0 Hz), 4.38 (1H, d, J=10.0 Hz), 6.32 (1H, s), 6.94-6.97 (1H, m), 7.16-7.20 (1H, m), 7.77-7.82 (1H, m), 8.18-8.24 (2H, m), 8.36 (1H, d, J=2.1 Hz), 10.28 (1H, s), 10.55 (1H, s).

reactant | 3-(4-Cyano-3-fluorophenoxy)-2-hydroxy-N-(3-hydroxymethyl-4-nitrophenyl)-2-methylpropionamide | 0.51 mmol, 0.2 g | C(#N)C1=C(C=C(OCC(C(=O)NC2=CC(=C(C=C2)[N+](=O)[O-])CO)(C)O)C=C1)F | C18H16FN3O6
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | manganese(IV) oxide | 4.6 mmol, 0.4 g | [O-2].[Mn+4].[O-2]
product | 3-(4-Cyano-3-fluorophenoxy)-N-(3-formyl-4-nitrophenyl)-2-hydroxy-2-methylpropionamide | C(#N)C1=C(C=C(OCC(C(=O)NC2=CC(=C(C=C2)[N+](=O)[O-])C=O)(C)O)C=C1)F | C18H14FN3O6
